US06936608B2
b) 4-Fluoro-3-(imidazol-1-yl)phenylamine
1-(2-Fluoro-5-nitrophenyl)-1H-imidazole (300 mg, 1.45 mmol) was reduced as described in Example 37, step b, using tin(II) chloride (1.14 g, 6.0 mmol) in ethanol (10 ml) to yield the title compound (158 mg, 62%): 1H NMR (360 MHz, CDCl3) δ 7.81 (1H, s), 7.22 (1H, s), 7.18 (1H, s), 7.02 (1H, dd, J 10.2, 8.8 Hz), 6.68-6.54 (2H, m); MS (ES+) m/z 178 [M+H]+.

reactant | 1-(2-Fluoro-5-nitrophenyl)-1H-imidazole | 1.45 mmol, 300 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])N1C=NC=C1 | C9H6FN3O2
reactant | tin(II) chloride | 6.0 mmol, 1.14 g | [Sn](Cl)Cl
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Fluoro-3-(imidazol-1-yl)phenylamine | 158 mg, 62% | FC1=C(C=C(C=C1)N)N1C=NC=C1 | C9H8FN3
